US07129258B2
2-(4-Hydroxyphenyl)-7-isopropenyl-1,3-benzoxazol-5-ol
Pyridine hydrochloride (400 mg) was heated to 190° C. To the melt was added 2-[5-methoxy-2-(4-methoxyphenyl)-1,3-benzoxazole-7-yl] propan-2-ol (114 mg, 0.36 mmol) and the reaction was stirred for 2 h. The mixture was cooled to room temperature, dissolved in water and extracted with EtOAc. The organic layers were combined and washed with HCl (1N), water then brine and dried over MgSO4. Evaporation and purification by flash chromatography (50%–60% EtOAc/petroleum ether) gave (40 mg, 41% yield) of the product as a light red-brown solid, m.p. 225–228° C.; MS m/e 268 (M+H)+.

reactant | Pyridine hydrochloride | 400 mg | Cl.N1=CC=CC=C1
reactant | 2-[5-methoxy-2-(4-methoxyphenyl)-1,3-benzoxazole-7-yl] propan-2-ol | 0.36 mmol, 114 mg | COC=1C=C(C2=C(N=C(O2)C2=CC=C(C=C2)OC)C1)C(C)(C)O | C18H19NO4
solvent | water | O | H2O
product | 2-(4-Hydroxyphenyl)-7-isopropenyl-1,3-benzoxazol-5-ol | 40 mg, 41% yield | OC1=CC=C(C=C1)C=1OC2=C(N1)C=C(C=C2C(=C)C)O | C16H13NO3
